US07208513B2
A. N-Amino-2-(4-hydroxypiperidyl)acetamide
To a solution of 4-hydroxypiperidine (1.1 g, 0.011 mol) and potassium carbonate (1.52 g, 0.011 mol) in acetonitrile (˜20 mL) was added methylbromoacetate (0.93 mL, 0.01 mol) and the mixture was stirred in a nitrogen atmosphere overnight. The solvent was removed and the material was taken up in methanol. Gaseous hydrochloric acid was bubbled into solution. The methanol was removed and the material was taken up in tetrahydrofuran and sonicated. A solid was collected using a fritted funnel. The solid was taken up in ethyl acetate. Sodium carbonate was added to the solution and allowed to stir for one hour. The sodium carbonate was removed by filtration and the organic layer was concentrated. A solution of the crude material was made using anhydrous ethanol (˜1 mL) and hydrazine (0.167 mL, 5.34 mmol). This was placed in a sealed tube and was heated to 85° C. for 3 hours. The solvent was removed to yield the title compound (0.875 g, 50% yield). 1H NMR (DMSO-d6) δ 8.8 (s, 1H), 4.6 (s, 1H), 4.2 (s, 2H), 2.8 (s, 2H), 2.6 (m, 2H), 2.0 (m, 2H), 1.6 (m, 2H), 1.4 (m, 2H).

reactant | 4-hydroxypiperidine | 0.011 mol, 1.1 g | OC1CCNCC1 | C5H11NO
reactant | potassium carbonate | 0.011 mol, 1.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylbromoacetate | 0.01 mol, 0.93 mL | COC(CBr)=O | C3H5BrO2
reactant | hydrazine | 5.34 mmol, 0.167 mL | NN | H4N2
solvent | acetonitrile | ˜20 mL | C(C)#N | C2H3N
solvent | ethanol | ˜1 mL | C(C)O | C2H6O
product | N-Amino-2-(4-hydroxypiperidyl)acetamide | 0.875 g, 50% yield | NNC(CN1CCC(CC1)O)=O | C7H15N3O2
